US08067448B2
N′-((2R,3R)-3-(tert-butyldimethylsilyloxy)-2-(4-cyano-2-methyl-3-(trifluoromethyl)phenylamino)butanoyl)-4-cyanobenzohydrazide
The crude material 4-cyano-N′-((2R,3R)-2-(4-cyano-2-methyl-3-(trifluoromethyl)phenylamino)-3-hydroxybutanoyl)benzohydrazide (800 mg, 1.75 mmol) was added to DMF (40 mL), followed by addition of TBDMS-Cl (1.06 g, 7.00 mmol) and imidazole (954 mg, 14.01 mmol) at 0° C. The solution was allowed to stir at 0° C. for 30 min and then at room temperature for overnight. The reaction was quenched with the addition of 200 mL brine and extract with EtOAc. The resulting crude material was chromatographed to get the desired product (640 mg) 1H NMR (400 MHz, acetone-d6, δ in ppm): 9.62 (br s), 7.93 (d, J=9 Hz, 2H), 7.79 (d, J=9 Hz, 2H), 7.55 (d, J=9 Hz, 1H), 6.98 (d, J=9 Hz, 1H), 5.38 (d, J=9 Hz, 1H), 4.41 (m, 1H), 4.18 (m, 1H), 2.25 (m, 3H), 1.31 (d, J=6 Hz, 3H), 0.77 (s, 9H), 0.03 (s, 6H), 0.00 (s, 3H).

reactant | 4-cyano-N′-((2R,3R)-2-(4-cyano-2-methyl-3-(trifluoromethyl)phenylamino)-3-hydroxybutanoyl)benzohydrazide | 1.75 mmol, 800 mg | C(#N)C1=CC=C(C(=O)NNC([C@@H]([C@@H](C)O)NC2=C(C(=C(C=C2)C#N)C(F)(F)F)C)=O)C=C1 | C21H18F3N5O3
reactant | TBDMS-Cl | 7.00 mmol, 1.06 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 14.01 mmol, 954 mg | N1C=NC=C1 | C3H4N2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | N′-((2R,3R)-3-(tert-butyldimethylsilyloxy)-2-(4-cyano-2-methyl-3-(trifluoromethyl)phenylamino)butanoyl)-4-cyanobenzohydrazide | 640 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](C(=O)NNC(C1=CC=C(C=C1)C#N)=O)NC1=C(C(=C(C=C1)C#N)C(F)(F)F)C)C | C27H32F3N5O3Si
